US06903239B2
Preparation of 4,5-difluoro-2-methylphenol
214 g of 4,5-difluoro-2-hydroxy-N,N-dimethylbenzylamine are initially charged in 700 ml of acetic acid in an autoclave, admixed with 50 g of palladium/activated carbon (5%) and heated with 70 bar of hydrogen to 100° C. for 26 hours. The autoclave is cooled and decompressed. The catalyst is filtered off and washed with acetic acid, and the filtrate is admixed with 3 000 ml of water. This aqueous solution is extracted three times with methyl tert-butyl ether. The combined organic phases are washed once with water and dried, and the solvent is distilled off under reduced pressure. The crude product is fractionally distilled under reduced pressure. The distillate can be further purified by crystallization. 98 g (58% of theory) of a colourless solid are obtained having a melting point of 68-70° C. and a boiling point of 78-80° C. at 13 mbar.

reactant | 4,5-difluoro-2-hydroxy-N,N-dimethylbenzylamine | 214 g | FC1=CC(=C(CN(C)C)C=C1F)O | C9H11F2NO
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 700 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | 50 g | [Pd] | Pd
product | 4,5-difluoro-2-methylphenol | FC1=CC(=C(C=C1F)O)C | C7H6F2O
